US04146721
To a solution of 15 grams 3,3-dibenzoyl-propionic acid ethyl ester and 3 grams glacial acetic acid in 90 milliliters ethanol was added at room temperature drop by drop a solution of 3.0 grams hydrazine hydrate in 10 milliliters ethanol followed by stirring at room temperature for 3 hours. The reaction mixture was then clarified by treatment with activiated carbon, and 150 milliliters water were added to the clear solution followed by cooling in an ice bath. The precipitate formed thereby was filtered off by suction, dried and taken up in 400 milliliters benzene. The benzene solution was extracted first with a saturated aqueous solution of sodium bicarbonate and thereafter with water. The benzene solution was dried and benzene distilled off. By the addition of about three times this volume of cyclohexane, a precipitate representing the ester reaction product was formed which was separated by filtration. 13.1 grams 3,5-diphenyl-1H-pyrazol-4-acetic acid-ethyl ester melting at 117°-118° C. were obtained, representing a yield of 86%.

reactant | 3,3-dibenzoyl-propionic acid ethyl ester | 15 grams | C(C)OC(CC(C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O)=O | C19H18O4
reactant | acetic acid | 3 grams | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 3.0 grams | O.NN
reactant | water | 150 milliliters | O | H2O
solvent | ethanol | 90 milliliters | C(C)O | C2H6O
solvent | ethanol | 10 milliliters | C(C)O | C2H6O
product | 3,5-diphenyl-1H-pyrazol-4-acetic acid-ethyl ester | 13.1 grams, yield of 86% | C(C)OC(CC=1C(=NNC1C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18N2O2
